US07951803B2
To a solution of 0.2 g (0.93 mmol, 1.0 eq.) of 2-chloro-N-cyclopropyl-5-nitropyrimidin-4-amine (I-1) in 5 mL of THF was added 0.19 mL (1.4 mmol, 1.5 eq.) of triethylamine followed by 0.14 g (1.1 mmol, 1.2 eq.) of 2-thiophene ethylamine. The reaction mixture was stirred at room temperature for 30 min and 2 mL of THF was added. A solution of 1.0 g (˜5.7 mmol, ˜85% tech. grade, ˜6.0 eq.) of sodium hydrosulfite and 1.0 g (12 mmol, ˜13 eq.) of sodium hydrogen carbonate in 10 mL of water was added, and the mixture was stirred vigorously at room temperature for 1 h. The mixture was diluted with 20 mL of EtOAc and washed 10 mL of sat. brine. The organic layer was dried (Na2SO4) and the solvent was removed in vacuo to provide 0.16 g of crude N4-cyclopropyl-N2-(2-(thiophen-2-yl)ethyl)pyrimidine-2,4,5-triamine (I-3).

reactant | 2-chloro-N-cyclopropyl-5-nitropyrimidin-4-amine | 0.93 mmol, 0.2 g, 1.0 eq. | ClC1=NC=C(C(=N1)NC1CC1)[N+](=O)[O-] | C7H7ClN4O2
reactant | triethylamine | 1.4 mmol, 0.19 mL, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-thiophene ethylamine | 1.1 mmol, 0.14 g, 1.2 eq. | S1C(=CC=C1)CCN | C6H9NS
reactant | sodium hydrosulfite | ˜5.7 mmol, 1.0 g, ˜6.0 eq. | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 12 mmol, 1.0 g, ˜13 eq. | C(O)([O-])=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N4-cyclopropyl-N2-(2-(thiophen-2-yl)ethyl)pyrimidine-2,4,5-triamine | 0.16 g | C1(CC1)NC1=NC(=NC=C1N)NCCC=1SC=CC1 | C13H17N5S
